US09303023B2
rac-N-(1-((1-(4,6-dimethoxypyrimidin-2-yl)pyrrolidin-2-yl)methyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
To a microwave tube was added rac-N-(1-(pyrrolidin-2-ylmethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide (40 mg, 0.11 mmol), 2-chloro-4,6-dimethoxypyrimidine (18 mg, 0.10 mmol) and Cs2CO3 (175 mg, 0.228 mmol) in MeCN (0.8 mL). The reaction mixture was irradiated at 180° C. for 30 min in the microwave, then the reaction mixture was diluted with DCM (30 mL). The organic layer was separated and washed with H2O (5 mL) and brine (5 mL). The combined organic layers were dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification by FC (hex/EtOAc 3:7) Rf=0.4) yielded the title compound (27 mg) as a yellowish solid. LC-MS conditions D: tR=1.16 min, [M+H]+=490.3.

reactant | rac-N-(1-(pyrrolidin-2-ylmethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 0.11 mmol, 40 mg | N1C(CCC1)CN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C19H21N5O2
reactant | 2-chloro-4,6-dimethoxypyrimidine | 0.10 mmol, 18 mg | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | Cs2CO3 | 0.228 mmol, 175 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 0.8 mL | CC#N | C2H3N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | rac-N-(1-((1-(4,6-dimethoxypyrimidin-2-yl)pyrrolidin-2-yl)methyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 27 mg | COC1=NC(=NC(=C1)OC)N1C(CCC1)CN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C25H27N7O4
